US07435837B2
To a solution of 4-(trifluoromethyl)phenol (5.0 g, 30.86 mmol) in carbon tetrachloride (100 mL) cooled to 0° C. was added dropwise over 4 hours bromine (4.94 g, 30.86 mmol) in carbon tetrachloride (25 mL) and the reaction mixture was allowed to stir at 0° C. for 24 h. The reaction mixture was washed with 10% aqueous sodium bisulfite (100 mL) and dichloromethane (300 mL). The aqueous phase was separated and extracted with dichloromethane (2×100 mL). The combined organic extracts were washed with saturated aqueous sodium chloride (400 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 2:8) gave 4.69 g (63%). Treatment of 2-bromo-4-(trifluoromethyl)phenol (4.69 g, 19.5 mmol) with sodium hydride (0.86 g, 21.0 mmol 60%) and allyl bromide (2.5 g, 21.0 mmol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 2-allyl-6-bromo-4-(trifluoromethyl)phenol. Treatment of 2-allyl-6-bromo-4-(trifluoromethyl)phenol (3.66 g, 13.0 mmol) with 3-chloroperoxybenzoic acid (5.84 g, 26.0 mmol, 77%) followed by potassium carbonate (2.5 g, 19.5 mmol) generally according to the procedure described for Intermediate 9 afforded 3.50 g (91%) of (±)-(7-bromo-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl)methanol. Treatment of (±)-(7-bromo-5-(trifluoromethyl-2,3-dihydro-1-benzofuran-2-yl)methanol (3.5 g, 11.78 mmol) with p-toluenesulfonyl chloride (3.6 g, 17.67 mol) generally according to the procedure described for Intermediate 10 gave 5.0 g (94%) of (±)-(7-bromo-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. Treatment of (±)-(7-bromo-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.30 g, 0.66 mmol) and 2-fluorophenylboronic acid (0.26 g, 2.13 mmol) generally according to the procedure described for Intermediate 35 afforded 0.11 g, (81%) of (±)-[7-(2-fluorophenyl)-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate. Treatment of the tosylate with sodium azide (0.21 g, 3.2 mmol) generally according to the procedure described for Intermediate 98 afforded 0.16 g (88%) of (±)-2-(azidomethyl)-5-(trifluoromethyl)-7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran. Treatment of (±)-2-(azidomethyl)-5-(trifluoromethyl)-7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran with polymer-supported triphenylphosphine (0.20 g, 0.76 mmol) according to the procedure described in Example 154 afforded 0.053 g (24%) of (±)-[(5-(trifluoromethyl)-7-(phenyl)-1-2,3-dihydro-1-benzofuran-2-yl)methyl]amine as a white solid, hydrochloride salt. mp >250° C.

reactant | 4-(trifluoromethyl)phenol | 30.86 mmol, 5.0 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | bromine | 30.86 mmol, 4.94 g | BrBr | Br2
reactant | 2-bromo-4-(trifluoromethyl)phenol | 19.5 mmol, 4.69 g | BrC1=C(C=CC(=C1)C(F)(F)F)O | C7H4BrF3O
reactant | sodium hydride | 21.0 mmol, 0.86 g | [H-].[Na+]
reactant | allyl bromide | 21.0 mmol, 2.5 g | C(C=C)Br | C3H5Br
reactant | allyl ether | C(C=C)OCC=C | C6H10O
reactant | 2-allyl-6-bromo-4-(trifluoromethyl)phenol | C(C=C)C1=C(C(=CC(=C1)C(F)(F)F)Br)O | C10H8BrF3O
reactant | 2-allyl-6-bromo-4-(trifluoromethyl)phenol | 13.0 mmol, 3.66 g | C(C=C)C1=C(C(=CC(=C1)C(F)(F)F)Br)O | C10H8BrF3O
reactant | 3-chloroperoxybenzoic acid | 26.0 mmol, 5.84 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 19.5 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | (±)-(7-bromo-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl)methanol | 3.50 g, 91% | BrC1=CC(=CC=2CC(OC21)CO)C(F)(F)F | C10H8BrF3O2
